US04367234
According to the procedure of Preparation 9, 3-fluorophenol (19.2 g.) in sodium hydroxide/water (120 g./133 ml.) was reacted with chloroform (three 58 ml. portions). The reaction mixture was cooled and filtered. The resulting solids were partitioned between saturated brine and ethyl acetate, the pH was adjusted to 7.0 with diluted hydrochloric acid, and the ethyl acetate layer separated and held. The earlier filtrate was adjusted to pH 7.0 with conc. hydrochloric acid and extracted with ethyl acetate. The earlier and later ethyl acetate extracts were combined, back washed with water and then brine, dried over anhydrous magnesium sulfate, filtered and evaporated to partially solid crude product (14.6 g.). The crude product was chromatographed on 200 g. silica gel, eluting with 6:1 hexane: ether, monitoring by tlc. The less polar component was collected in early fractions, which were combined and evaporated to yield 2-fluoro-6-hydroxybenzaldehyde, as an oil which partially crystallized on standing [1.4 g.; Rf 0.8 (2:1 chloroform: hexane)].

reactant | 3-fluorophenol | 19.2 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | chloroform | 58 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide water | 133 ml, 120 g | [OH-].[Na+].O
product | 2-fluoro-6-hydroxybenzaldehyde | FC1=C(C=O)C(=CC=C1)O | C7H5FO2
